US06833371B2
4,4,4-Trifluoro-1-pyridin-2-yl-butane-1,3-dione (3.00 g, 13.8 mmol) and 5-amino-1H-pyrazole-3-carboxylic acid (1.76 g, 13.8 mmol) in acetic acid (100 ml) was heated at reflux overnight. The reaction mixture was concentrated under reduced pressure and the crude product was purified by column chromatography on silica gel to give 5-pyridin-2-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (3.04 g, 71%).

reactant | 4,4,4-Trifluoro-1-pyridin-2-yl-butane-1,3-dione | 13.8 mmol, 3.00 g | FC(C(CC(=O)C1=NC=CC=C1)=O)(F)F | C9H6F3NO2
reactant | 5-amino-1H-pyrazole-3-carboxylic acid | 13.8 mmol, 1.76 g | NC1=CC(=NN1)C(=O)O | C4H5N3O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-pyridin-2-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 3.04 g, 71% | N1=C(C=CC=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=C(C2)C(=O)O | C13H7F3N4O2
